US09427475B2
Step E: 2-aminoethyl 3-O-α-D-mannopyranosyl-α-D-mannopyranoside
In a 50 mL round bottom flask, 2-azidoethyl 3-O-α-D-mannopyranosyl-α-D-mannopyranoside (139 mg, 0.338 mmol) was dissolved in water/CH3OH (v/v 1:1, 5 mL). To the above solution was added Pd/C (10%, 36 mg, 0.034 mmol). The reaction mixture was stirred at 25° C. under H2 balloon for 18 hr. The mixture was filtered through a pad of Celite, and the filtrate was concentrated to give the title compound. LC-MS Method A: m/e=386.08 [M+1]; Rt=0.24 min.

reactant | 2-azidoethyl 3-O-α-D-mannopyranosyl-α-D-mannopyranoside | 0.338 mmol, 139 mg | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@@H](OCCN=[N+]=[N-])O[C@@H]([C@H]1O)CO)O | C14H25N3O11
solvent | water CH3OH | 5 mL | O.CO
catalyst | Pd/C | 0.034 mmol, 36 mg | [Pd] | Pd
product | 2-aminoethyl 3-O-α-D-mannopyranosyl-α-D-mannopyranoside | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@@H](OCCN)O[C@@H]([C@H]1O)CO)O | C14H27NO11
